US08053435B2
Preparation of methyl 6-oxo-hexanoate (the Compound of Formula X)
Pyridinium chlorochromate (16.27 g, 75.48 mM) was dissolved in dichloromethane (140 ml), and a solution of methyl 6-hydroxy-hexanoate (10.03 g, 68.61 mM) obtained in Preparation Example 2-1 dissolved in dichloromethane (20 ml) was added dropwise thereto over 30 min. The resulting mixture was stirred at 25˜30° C. for 2 hrs. After the completion of reaction, the reaction mixture was diluted with ethyl ether, filtered and concentrated under reduced pressure. The residue thus obtained was subjected to a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/4), to obtain 5.77 g of the title compound (yield 59%).

reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 6-oxo-hexanoate | 5.77 g, yield 59% | O=CCCCCC(=O)OC | C7H12O3
